US05807886
(c) 5-Amino-2-(methyl)(phenylmethyl)aminoindane dihydrochloride
To 5-nitro-2-(methyl)(phenylmethyl)aminoindane hydrochloride (1.08 g, 3.39 mmol) in 85% acetic acid/water was added zinc powder (3.0 g). The mixture was stirred for 1 minute, filtered through celite and concentrated. The concentrate was neutralized with 2N NaOH and extracted with ethyl acetate (3×50 ml). The combined extracts were washed with water, dried over magnesium sulfate, and reduced to a syrup. The oil was treated with IPA/HCl, concentrated and used immediately in the next step.

reactant | 5-nitro-2-(methyl)(phenylmethyl)aminoindane hydrochloride | 3.39 mmol, 1.08 g | Cl.[N+](=O)([O-])C=1C=C2CC(C(C2=CC1)NCC1=CC=CC=C1)C
solvent | acetic acid water | C(C)(=O)O.O
catalyst | zinc | 3.0 g | [Zn] | Zn
product | 5-Amino-2-(methyl)(phenylmethyl)aminoindane dihydrochloride | Cl.Cl.NC=1C=C2CC(C(C2=CC1)NCC1=CC=CC=C1)C | InChI=1S/C17H20N2.2ClH/c1-12-9-14-10-15(18)7-8-16(14)17(12)19-11-13-5-3-2-4-6-13;;/h2-8,10,12,17,19H,9,11,18H2,1H3;2*1H
